US06504025B2
2.1 (via TEMPO, NaOCl): A suspension of 22.47 g 7-[2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-hydroxymethyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid benzhydryl ester in 110 ml of dichloromethane was treated with a solution of 369 mg of KBr and 958 mg of NaHCO3 in 70 ml of water, the mixture was cooled to 0° C. and treated with a solution of 391 mg of TEMPO (available from Fluka or as described in Synthesis, 1971, p. 190) in 2 ml of dichloromethane. The mixture was treated under vigorous stirring with 29 ml of NaOCl in water (9.93%) over 2 h and stirring was continued for 2 h after which time HPLC indicated completion of the reaction. The reaction mixture was filtered over Celite, the organic layer was washed with brine, treated with MgSO4 and charcoal and filtered. The filtrate was stirred with 25 g of silica for 10 min, filtered and the filtrate was evaporated to dryness to give 16.61 g of the NMR-pure 7-[2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-formyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid benzhydryl ester as a foam. IR (neat): 3432 w (NH2, NH), 1800 m, 1783 m, 1670 m (C═O). 1H-NMR (d6-DMSO): 9.98 (d, J=9.2, 1H, NH); 9.51 (s, 1H, CHO); 8.14 (s, br., 2H, NH2); 7.55-7.25 (m, 25H, H—ar.); 7.10 (s, 1H, CH(Ph)2); 6.30 (dd, J=9.2 and 5.6, 1H, H—C(7)); 5.41 (D, J=5.6, 1H, H—C(6)); 3.93 and 3.49 (each d, J=each 18, 2H, H2C(4)). MS (CI): 807/100, M+H+).

reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | NaOCl | [O-]Cl.[Na+]
reactant | 7-[2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-hydroxymethyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid benzhydryl ester | 22.47 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1CO)NC(C(=NOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=NSC(=N1)N)=O)=O | C44H36N6O6S2
reactant | KBr | 369 mg | [K+].[Br-]
reactant | NaHCO3 | 958 mg | C(=O)(O)[O-].[Na+]
reactant | TEMPO | 391 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | NaOCl | 29 ml | [O-]Cl.[Na+]
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
solvent | water | 70 ml | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 7-[2-(5-amino-[1,2,4]thiadiazol-3-yl)-2-trityloxyimino-acetylamino]-3-formyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid benzhydryl ester | 16.61 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=O)NC(C(=NOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=NSC(=N1)N)=O)=O | C44H34N6O6S2
